US07012075B2
To an ice cold solution of 4-bromothiophenol (455 mg, 2.4 mmol) in DRY (3 mL) was added sodium hydride (101 mg of 60% oil disp., 2.5 mmol). The resulting suspension was stirred at 0° C. for 30 min. A solution of ethyl 2-bromo-3-(1-methylcyclopropyl)propanoate (465 mg, 2.0 mmol) in DMF (2 mL) was added dropwise and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography using Et2O in hexane to afford ethyl 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoate.

reactant | 4-bromothiophenol | 2.4 mmol, 455 mg | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | sodium hydride | 2.5 mmol, 101 mg | [H-].[Na+]
reactant | ethyl 2-bromo-3-(1-methylcyclopropyl)propanoate | 2.0 mmol, 465 mg | BrC(C(=O)OCC)CC1(CC1)C | C9H15BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoate | BrC1=CC=C(C=C1)SC(C(=O)OCC)CC1(CC1)C | C15H19BrO2S
